US07449466B2
Production Example 1 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and (2-bromoethyl)-benzene were replaced with 1-(4-benzyloxy-3-fluorophenyl)piperazine (368 mg) and 3-cyclopentylpropyl methanesulfonate (319 mg), respectively, to provide crude 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclopentylpropyl)piperazine (505 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | (2-bromoethyl)-benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 1-(4-benzyloxy-3-fluorophenyl)piperazine | 368 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCNCC1)F | C17H19FN2O
reactant | 3-cyclopentylpropyl methanesulfonate | 319 mg | CS(=O)(=O)OCCCC1CCCC1 | C9H18O3S
product | 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclopentylpropyl)piperazine | 505 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCC1)F | C25H33FN2O
